US08258182B2
Compound 24: 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-isopropyloxypropyl]phenoxy]-2-methylpropanoic acid
This compound was prepared according to general procedure E, from 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxy-propyl]phenoxy]-2-methylpropanoic acid in 50/50 isopropyl alcohol/water at 70° C. for 32 hours;

reactant | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-hydroxy-propyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(O)C1=CC=C(C=C1)SC)C | C22H28O4S
reactant | isopropyl alcohol water | C(C)(C)O.O
product | 2-[2,6-dimethyl-4-[3-[4-(methylthio)phenyl]-3-isopropyloxypropyl]phenoxy]-2-methylpropanoic acid | CC1=C(OC(C(=O)O)(C)C)C(=CC(=C1)CCC(OC(C)C)C1=CC=C(C=C1)SC)C | C25H34O4S
